US07683060B2
Step 1. tert-butyl (2S)-3,3-dimethyl-2-({4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1, 2,4]triazin-6-yl]benzoyl}amino)butanoate
A mixture of 4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoic acid (40 mg, 0.10 mmol), tert-butyl (2S)-2-amino-3,3-dimethylbutanoate hydrochloride (26 mg, 0.12 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (45.5 mg, 0.103 mmol), and N,N-diisopropylethylamine (60 μL, 0.34 mmol) in methylene chloride (1.5 mL) was stirred at RT overnight. The mixture was diluted with DCM, and washed with saturated NaHCO3 solution, water and brine, dried over Na2SO4, filtered, and concentrated to yield desired product which was directly used in the next step without further purification.

reactant | 4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1,2,4]triazin-6-yl]benzoic acid | 0.10 mmol, 40 mg | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=NN=C2N1N=C(C=N2)C2=CC=C(C(=O)O)C=C2 | C23H16N6O2
reactant | tert-butyl (2S)-2-amino-3,3-dimethylbutanoate hydrochloride | 0.12 mmol, 26 mg | Cl.N[C@H](C(=O)OC(C)(C)C)C(C)(C)C
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.103 mmol, 45.5 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.34 mmol, 60 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (2S)-3,3-dimethyl-2-({4-[3-(1-quinolin-6-ylcyclopropyl)[1,2,4]triazolo[4,3-b][1, 2,4]triazin-6-yl]benzoyl}amino)butanoate | CC([C@@H](C(=O)OC(C)(C)C)NC(C1=CC=C(C=C1)C=1C=NC=2N(N1)C(=NN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)=O)(C)C | C33H35N7O3
